US06919353B2
To a solution of 4-bromo-2-fluoro-benzyl alcohol (10 g, 49 mmol) in TBF (500 mL) at −78° C. was added BuLi (2.5M, 43 mL, 107 mmol) dropwise keeping the internal temperature below −73° C. After 25 min., trimethylborate (25 mL, 107 mmol) was added and the resulting reaction mixture stirred for 15 h at −78° C., 1 h at 21° C., then diluted with HCl 10% and ethyl acetate. The organic extracts were washed (H2O, brine), dried (MgSO4), filtered and concentrated. The residue was solidified from hexane/ethyl acetate with water (5 drops) to afford the 4-fluoro-3-hydroxymethyl-benzene-boronic acid compound as a white solid.

reactant | 4-bromo-2-fluoro-benzyl alcohol | 49 mmol, 10 g | BrC1=CC(=C(CO)C=C1)F | C7H6BrFO
reactant | BuLi | 107 mmol, 2.5M, 43 mL | [Li]CCCC
reactant | trimethylborate | 107 mmol, 25 mL | COB(OC)OC | C3H9BO3
solvent | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-fluoro-3-hydroxymethyl-benzene-boronic acid | FC1=C(C=C(C=C1)B(O)O)CO | C7H8BFO3
